US07425640B2
5-Benzoylamino-2-[(2-benzyloxy-cyclohexylcarbamoyl)-methyl]-2H-pyrazole-3-carboxylic acid (2-benzyloxy-cyclohexyl)-amide
5-Amino-2-[(2-benzyloxy-cyclohexylcarbamoyl)-methyl]-2H-pyrazole-3-carboxylic acid (2-benzyloxy-cyclohexyl)-amide (0.05 gm, 0.008 mmol) was dissolved in 1 ml of dichloromethane and 0.033 ml of triethylamine. Benzoyl chloride (0.014 ml) was added and the reaction mixture stirred for 2 hours. ESI M+1=664.

reactant | 5-Amino-2-[(2-benzyloxy-cyclohexylcarbamoyl)-methyl]-2H-pyrazole-3-carboxylic acid (2-benzyloxy-cyclohexyl)-amide | 0.008 mmol, 0.05 gm | C(C1=CC=CC=C1)OC1C(CCCC1)NC(=O)C=1N(N=C(C1)N)CC(NC1C(CCCC1)OCC1=CC=CC=C1)=O | C32H41N5O4
reactant | Benzoyl chloride | 0.014 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | triethylamine | 0.033 ml | C(C)N(CC)CC | C6H15N
product | 5-Benzoylamino-2-[(2-benzyloxy-cyclohexylcarbamoyl)-methyl]-2H-pyrazole-3-carboxylic acid (2-benzyloxy-cyclohexyl)-amide | C(C1=CC=CC=C1)OC1C(CCCC1)NC(=O)C=1N(N=C(C1)NC(C1=CC=CC=C1)=O)CC(NC1C(CCCC1)OCC1=CC=CC=C1)=O | C39H45N5O5
